US06225310B1
3-Isopropylamino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1.1-dioxide
Powdered potassium hydroxide (128 mg, 2.28 mmol) was added to a solution of 6-chloro-3-isopropylamino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide (319 mg, 1.14 mmol) in 25 ml of methanol and the mixture was hydrogenated at room temperature and atmospheric pressure for 3 days with 150 mg of 10% palladium on carbon. The catalyst was removed by filtration and washed with ethanol and water. The combined filtrate was acidified with 4 M hydrochloric acid and evaporated to dryness. The residue was recrystallised from water/ethanol and finally from ethyl acetate with decolorising charcoal affording the title compound contaminated with starting material, which could be removed by silica gel column chromatography; 1H-NMR (DMSO-d6): δ1.16 (d, 6H, 2×CH3), 3.88 (m, 1H, CH), 6.95 (d, 1H, H-5), 7.03 (br d, 1H, NH), 7.88 (d, 1H, H-6), 10.70 (br s, 1H).

reactant | potassium hydroxide | 2.28 mmol, 128 mg | [OH-].[K+]
reactant | 6-chloro-3-isopropylamino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | 1.14 mmol, 319 mg | ClC1=CC=2NC(=NS(C2S1)(=O)=O)NC(C)C | C8H10ClN3O2S2
solvent | methanol | 25 ml | CO | CH4O
catalyst | palladium on carbon | 150 mg | [Pd] | Pd
product | 3-Isopropylamino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1.1-dioxide | C(C)(C)NC1=NS(C2=C(N1)C=CS2)(=O)=O | C8H11N3O2S2
